US07064116B2
4[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-ol
To a solution of 1,1-dibromo-2-[3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-ethylene (308 mg, 0.44 mmol) in THF (11 mL) was added at −78° C. a solution of n-BuLi 1.6 M in hexanes (2.76 mL, 4.4 mmol) and the mixture was stirred for 2 h. Acetaldehyde (0.032 mL, 0.57 mmol) was added at −78° C. and the temperature was let to rise to 25° C. Addition of HCl solution 2N at 0° C. was followed by extraction with ethyl acetate. The organic layer was washed with NaHCO3 brine and dried with (Na2SO4) and the solvent was evaporated in vacuo. Subsequent purification of the residue with flash column chromatography using petroleum etherlethyl acetate 90/10 as eluent afforded the desired compound named above.

reactant | 1,1-dibromo-2-[3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-ethylene | 0.44 mmol, 308 mg | BrC(=C[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)Br | C37H50Br2OSi
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | Acetaldehyde | 0.57 mmol, 0.032 mL | C(C)=O | C2H4O
reactant | HCl | 2N | Cl | ClH
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 4[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-ol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C#CC(C)O | C39H54O2Si
